US03969463
A mixture of 70 ml. of 6N hydrochloric acid and 10-amino-6,7-dihydro-5-methyl-1-oxo-benzo[ij]quinolizine-2-carboxylic acid (10 g., 0.039 mole) is treated at 0° to 5° C. with sodium nitrite (2.7 g., 0.39 mole) in 10 ml. of water. The solution is stirred for about ten minutes, then neutralized by the addition of solid sodium carbonate. A solution of cuprous chloride (4.7 g., 0.048 mole) in 20 ml. of water and sodium cyanide (4.75 g., 0.097 mole) in 10 ml. of water is cooled to 0° C., then the diazonium solution is added dropwise with vigorous stirring. After stirring for 30 minutes at 0° C. the mixture is heated at 50° C. for 15 minutes, then stirred at about 25° C. for about 65 hours. The solution is acidified to pH 6 with glacial acetic acid to provide a brown solid which is collected by filtration, washed with water, then extracted into two 200 ml. portions of boiling dichloroethane. The hot dichloroethane extracts are filtered, then the filtrate is concentrated to provide an orange solid. The solid is washed thoroughly with hexane, recrystallized from N,N-dimethyl formamide, dissolved in dilute base, reprecipitated with glacial acetic acid and recrystallized again from N,N-dimethyl formamide to provide 10-cyano-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. >300° C.

reactant | hydrochloric acid | 6N | Cl | ClH
reactant | 10-amino-6,7-dihydro-5-methyl-1-oxo-benzo[ij]quinolizine-2-carboxylic acid | 0.039 mole, 10 g | NC=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C14H14N2O3
reactant | sodium nitrite | 0.39 mole, 2.7 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium cyanide | 0.097 mole, 4.75 g | [C-]#N.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 10-cyano-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | C(#N)C=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C15H12N2O3
